US05726186
6a, 11a-Dihydro-3,9-dimethoxy-6-H-[1]benzothieno[3,2-c][1]benzopyran-6-one
To a stirred solution of 6-methoxythianaphthen-2-one (see Docket B-9459) (20 g, 111 mmol) in a mixture of ethanol (100 mL) and methylene chloride (50 mL) was added 4-methoxysalicylaldehyde (17.5 g, 115 mmol) followed by triethylamine (567 mg, 784 mL, 5.6 mmol) at room temperature. After 30 min, a solid began to precipitate and stirring was continued overnight. The mixture was then diluted with cold hexane (1 L) and filtered to yield 28.7 g (82%) of the title product as an off-white solid, pure by 1 H-NMR analysis. An analytical sample was obtained by recrystallization from toluene as light yellow crystals, mp 157-165 d°C.: 1 H-NMR (300 MHz, CDCl3) d 7.33 (d, J=8.6 Hz, 1H), 7.31 (d, J=8.1 Hz, 1H), 6.75 (d, J=2.4 Hz, 1H), 6.70 (m, 2H), 6.60 (d, J=2.5 Hz, 1H), 5.22 (d, J=7.2 Hz, 1H), 4.33 (d, J=7.2 Hz, 1H), 3.79 (s, 3H), 3.76 (s, 3H); IR (CHCl3) 1759 cm-1 ; MS (FD) m/e 314 (M+); Anal. calc'd. for C17H14O4S: C, 64.95; H, 4.50. Found: C, 65.01; H, 4.58.

reactant | 6-methoxythianaphthen-2-one | 111 mmol, 20 g | COC1=CC2=C(CC(=O)S2)C=C1 | C9H8O2S
reactant | 4-methoxysalicylaldehyde | 115 mmol, 17.5 g | COC=1C=C(C(C=O)=CC1)O | C8H8O3
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | triethylamine | 5.6 mmol, 784 mL, 567 mg | C(C)N(CC)CC | C6H15N
product | 6a, 11a-Dihydro-3,9-dimethoxy-6-H-[1]benzothieno[3,2-c][1]benzopyran-6-one | 28.7 g, 82% | COC1=CC2=C(C3C(C(O2)=O)C2=C(S3)C=C(C=C2)OC)C=C1 | C17H14O4S
